US05386033
2-Acetylamino-6-(2-cyanoethyl)pyridine (11.5 mg, 78 μmol) was dissolved in 25% ammonia water (3.0 ml) and, after purging with nitrogen, palladium black (30 mg) was added thereto. After repurging with nitrogen, the mixture was stirred at room temperature under a hydrogen stream at 9 atmospheres for 28 hours. After nitrogen purging, the palladium black was filtered off and the filtrate was concentrated under reduced pressure. Chloroform (500 μl) was added to the residue and, the mixture was cooled with ice and, after addition of acetic anhydride (100 μl, 1.1 mmol), stirred for 10 minutes. After allowing the temperature to rise to room temperature, stirring was continued for 5 hours. After cooling with ice, methanol (1.0 ml) was added and the mixture was stirred for 1 hour and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography [silica gel 10 g, chloroform-methanol (19:1)→(15:1)] to give 2-acetylamino-6-(3 -acetylaminopropyl)pyridine as a colorless solid (Yield 6 mg (51%)).

reactant | 2-Acetylamino-6-(2-cyanoethyl)pyridine | 78 μmol, 11.5 mg | C(C)(=O)NC1=NC(=CC=C1)CCC#N | C10H11N3O
reactant | acetic anhydride | 1.1 mmol, 100 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | 1.0 ml | CO | CH4O
solvent | ammonia water | 3.0 ml | O.N
product | 2-acetylamino-6-(3 -acetylaminopropyl)pyridine | C(C)(=O)NC1=NC(=CC=C1)CCCNC(C)=O | C12H17N3O2
